US06194410B1
In an analogous manner to that described in Example 4), from 7-chloro-3-(4-iodo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 3-(4-iodo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine-7-ylamine as colorless crystals, m.p.>230°.

reactant | 7-chloro-3-(4-iodo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)I)SC)C | C14H11ClIN3O2S2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 3-(4-iodo-benzenesulphonyl)-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine-7-ylamine | IC1=CC=C(C=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)C)SC | C14H13IN4O2S2
